US08975276B2
A 50 mL round bottomed flask was charged with methyl 6-bromo-2-phenylimidazo[1,2-a]pyridine-7-carboxylate (400 mg, 1.21 mmol) and suspended in methanol (12.1 mL). To that stirring solution was added 3.0M potassium hydroxide (0.805 mL, 2.42 mmol). The flask was fitted with a reflux condenser and placed in an oil bath preheated to 70° C. After 2.5 hours, LCMS showed clean and complete conversion of the starting material to a major peak with the desired mass (m/z=318 [M+H]+). The mixture was cooled to room temperature and 1.0N HCl was added. The reaction mixture was cooled in an ice bath and a pink solid formed. After 30 minutes, the solids were filtered and dried under high vacuum overnight. 6-Bromo-2-phenylimidazo[1,2-a]pyridine-7-carboxylic acid (283 mg, 0.892 mmol, 73.9% yield) was recovered as a pink solid. 1H NMR (400 MHz, DMSO-d6) ppm 9.04 (1H, s), 8.51 (1H, s), 8.09 (1H, s), 7.96-8.03 (2H, m), 7.45-7.54 (2H, m), 7.35-7.43 (1H, m) Mass found 318 [M+H]+.

reactant | methyl 6-bromo-2-phenylimidazo[1,2-a]pyridine-7-carboxylate | 1.21 mmol, 400 mg | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)C(=O)OC | C15H11BrN2O2
reactant | potassium hydroxide | 2.42 mmol, 3.0M, 0.805 mL | [OH-].[K+]
reactant | HCl | 1.0N | Cl | ClH
solvent | methanol | 12.1 mL | CO | CH4O
product | 6-Bromo-2-phenylimidazo[1,2-a]pyridine-7-carboxylic acid | 0.892 mmol, 283 mg, 73.9% yield | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)C(=O)O | C14H9BrN2O2
